US07645338B2
tert-Butyl N-[(benzyloxy)carbonyl]-L-methionyl-L-alaninate
Z-Protected L-methionine (10 g) was dissolved in DMF (200 ml) and 1-[3-(dimethylamino)propyol]-3-ethylcarbodiimide hydrochloride (8.13 g) was added followed by HOBT (5.72 g) and triethylamine (19.7 ml). The mixture was stirred for 1 h then L-alanine tert-butyl ester (7.7 g) was added and stirring continued for 18 h. The mixture was concentrated under reduced pressure and partitioned between diethyl ether and water. The separated organic phase was washed with hydrochloric acid (1M), saturated sodium bicarbonate solution and brine, dried (over magnesium sulphate) and concentrated under reduced pressure to give the title compound (11.9 g) as an orange oil which crystallised on standing.

reactant | L-methionine | 10 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | HOBT | 5.72 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 19.7 ml | C(C)N(CC)CC | C6H15N
reactant | L-alanine tert-butyl ester | 7.7 g | C(C)(C)(C)OC([C@@H](N)C)=O | C7H15NO2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | tert-Butyl N-[(benzyloxy)carbonyl]-L-methionyl-L-alaninate | 11.9 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCSC)C(=O)N[C@@H](C)C(=O)OC(C)(C)C | C20H30N2O5S
